US09403813B2
Pd(PPh3)4 (416 mg, 0.36 mmol) was added to a rt solution of 2-tributylstannylpyrimidine (1.40 g, 3.6 mmol) and methyl 2-bromo-5-methoxy-4-methylbenzoate (1.03 g, 3.96 mmol) in degassed DME (7 mL) and the resulting mixture was irradiated in the microwave at 160° C. for 1 h. To the rxn mixture was added Pd(PPh3)4 (315 mg, 0.27 mmol) and irradiation was continued at 160° C. for another 2 h. The rxn mixture was diluted with EtOAc and H2O, filtered over celite, the org. layer was separated and the aq. layer was re-extracted with EtOAc. The combined org. extracts were dried (MgSO4), filtered, concentrated in vacuo and purified by FC (Biotage SP1: EtOAc/hex 1:9 to 3:7) to yield methyl 5-methoxy-4-methyl-2-(pyrimidin-2-yl)benzoate as a brown solid which was used without further purification. LC-MS A: tR=0.75 min, [M+H]+=258.99.

reactant | 2-tributylstannylpyrimidine | 3.6 mmol, 1.40 g | C(CCC)[Sn](C1=NC=CC=N1)(CCCC)CCCC
reactant | methyl 2-bromo-5-methoxy-4-methylbenzoate | 3.96 mmol, 1.03 g | BrC1=C(C(=O)OC)C=C(C(=C1)C)OC | C10H11BrO3
solvent | DME | 7 mL | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
catalyst | Pd(PPh3)4 | 0.36 mmol, 416 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 0.27 mmol, 315 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 5-methoxy-4-methyl-2-(pyrimidin-2-yl)benzoate | COC=1C(=CC(=C(C(=O)OC)C1)C1=NC=CC=N1)C | C14H14N2O3
